US07691882B2
3-(1-(4-Cyclopropylmethoxymethyl-benzyl)-1H-pyrazol-4-yl)-pyridin-2-ylamine
To a mixture of 3-(1-(4-bromo-benzyl)-1H-pyrazol-4-yl)-pyridin-2-ylamine (24 mg, 0.073 mmol) described in Manufacturing Example 195-1-1 and 1,4-dioxane (1.5 mL) were added water (150 μL), cesium carbonate (95 mg, 0.29 mmol), sodium cyclopropylmethoxymethyl trifluoroborate (19 mg, 0.11 mmol) described in Manufacturing Example 195-2-2, palladium (II) acetate (1.6 mg, 0.0073 mmol), and (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (4.5 mg, 0.0073 mmol) at room temperature, which was stirred for 6 hours at 100° C. under nitrogen atmosphere. The reaction mixture was cooled to room temperature, after which water and ethyl acetate were added and the mixture was filtered through a Celite pad. The organic layer of the filtrate was washed with saturated aqueous sodium chloride, and was concentrated under a reduced pressure. The residue thus obtained was purified by reverse-phase high performance liquid chromatography (using an acetonitrile-water mobile phase containing 0.1% trifluoroacetic acid), after which triethylamine was added to a mixture of the resulting target product and the mobile phase, thereby rendering the mobile phase basic, and the solvent was evaporated under a reduced pressure. The residue thus obtained was filtered through NH silica gel (ethyl acetate) to obtain the title compound (1.6 mg, 6.6%).

reactant | 3-(1-(4-bromo-benzyl)-1H-pyrazol-4-yl)-pyridin-2-ylamine | 0.073 mmol, 24 mg | BrC1=CC=C(CN2N=CC(=C2)C=2C(=NC=CC2)N)C=C1 | C15H13BrN4
reactant | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
reactant | cesium carbonate | 0.29 mmol, 95 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.0073 mmol, 4.5 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
catalyst | palladium (II) acetate | 0.0073 mmol, 1.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 150 μL | O | H2O
product | 3-(1-(4-Cyclopropylmethoxymethyl-benzyl)-1H-pyrazol-4-yl)-pyridin-2-ylamine | 1.6 mg, 6.6% | C1(CC1)COCC1=CC=C(CN2N=CC(=C2)C=2C(=NC=CC2)N)C=C1 | C20H22N4O
